US07060722B2
3-Amino-4-cyanophenol (6.71 g) was dissolved in pyridine (100 mL), and potassium ethylxanthate (8.82 g) was added thereto. The mixture was refluxed for 2 hr. After allowing to cool, iced water (200 mL) was added to the reaction mixture, and conc. hydrochloric acid (40 mL) was added thereto. The precipitated solid was collected by filtration to give 5-cyano-2-mercaptobenzoxazole (5.62 g) as a gray powder.

reactant | 3-Amino-4-cyanophenol | 6.71 g | NC=1C=C(C=CC1C#N)O | C7H6N2O
reactant | potassium ethylxanthate | 8.82 g | C(C)OC(=S)[S-].[K+]
reactant | water | 200 mL | O | H2O
reactant | hydrochloric acid | 40 mL | Cl | ClH
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 5-cyano-2-mercaptobenzoxazole | 5.62 g | C(#N)C=1C=CC2=C(N=C(O2)S)C1 | C8H4N2OS
